US04659816
Vincristine
To the solution of 53 mg (0.06 mmole) cyclovincristine in 5 ml abs. glacial acetic acid an excess of sodium borohydride (ca. 40 mg) is added in portions at ambient temperature. The reaction is controlled by TLC (Merck Kieselgel 60F254, Rf of starting material>Rf of product). When the reaction has been completed (ca. 2-3 hours at 25° C.), the solution is poured onto ice-water, rendered alkaline with concentrated aqueous ammonium hydroxide solution to pH 9, then extracted with 2×20 ml of dichloromethane. The combined organic phase is washed with 2×15 ml of water, dried (MgSO4) and evaporated in vacuo. The crude product obtained is purified by preparative chromatography (Kieselgel PF254+366).

reactant | cyclovincristine | 0.06 mmole, 53 mg | CC[C@@]1(C[C@@H]2C[C@@](C3=NC4=CC=CC=C4[C@]35[C@H]2N(C1)CC5)(C6=C(C=C7C(=C6)[C@]89CCN1[C@H]8[C@@](C=CC1)([C@H]([C@@]([C@@H]9N7C=O)(C(=O)OC)O)OC(=O)C)CC)OC)C(=O)OC)O | C46H54N4O10
reactant | sodium borohydride | ca. 40 mg | [BH4-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Vincristine | CC[C@@]1(C[C@@H]2C[C@@](C3=C(C=4C=CC=CC4N3)CCN(C2)C1)(C=5C=C6C(=CC5OC)N([C@@H]7[C@]68CCN9[C@H]8[C@@](C=CC9)([C@H]([C@@]7(C(=O)OC)O)OC(=O)C)CC)C=O)C(=O)OC)O | C46H56N4O10
